### PR TITLE
[Merged by Bors] - feat: Bergelson's Intersectivity Lemma

### PR DESCRIPTION
**Pull request by YaelDillies**
Prove a weak version of the Bergelson intersectivity lemma. The proof gives the strong version, but we need natural density to state it. This is a prerequisite to Tao and Ziegler's recent paper [Infinite partial sumsets in the primes](https://arxiv.org/abs/2301.10303).

---

- [x] depends on: #14421
- [x] depends on: #14423 

See https://github.com/leanprover-community/mathlib/pull/18732

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/Intersectivity.lean [hunk 1]
```diff
@@ -0,0 +1,131 @@
...
+  -- `N` is a null set since `M f` is a null set for each `f`.
+  have hN₀ : μ N = 0 := measure_iUnion_null fun u ↦ meas_snormEssSup_lt
+  -- The important thing about `N` is that if we remove `N` from our space, then finite unions of
+  -- the `s n` are null iff they are empty.
+  have hN₁ (u : Finset ℕ) : ((⋂ n ∈ u, s n) \ N).Nonempty → 0 < μ (⋂ n ∈ u, s n) := by
+    simp_rw [pos_iff_ne_zero]
+    rintro ⟨x, hx⟩ hu
+    refine hx.2 (mem_iUnion.2 ⟨u, ?_⟩)
+    rw [mem_setOf, indicator_of_mem hx.1, snormEssSup_eq_zero_iff.2]
+    simp
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/Intersectivity.lean:58]: This is a false positive

File: Mathlib/MeasureTheory/Function/Intersectivity.lean [hunk 2]
```diff
@@ -0,0 +1,130 @@
...
+open Filter Function MeasureTheory Set
+open scoped BigOperators ENNReal NNReal
+
+variable {ι α : Type*} [MeasurableSpace α] {μ : Measure α} [IsFiniteMeasure μ] {r : ℝ≥0∞}
+
+/-- **Bergelson Intersectivity Lemma**: In a finite measure space, a sequence of events that have
+measure at least `r` has an infinite subset whose finite intersections all have positive volume.
+
+TODO: The infinity of `t` should be strengthened to `t` having positive natural density. -/
+lemma strong_bergelson {s : ℕ → Set α} (hs : ∀ n, MeasurableSet (s n)) (hr₀ : r ≠ 0)
```
Comment (JasonKYi) [inline Mathlib/MeasureTheory/Function/Intersectivity.lean:41]: Am I correct that `strong_bergelson` and `weak_bergelson` only differs in the index? Perhaps you can call them `bergelson` and `bergelson'` for now.

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/Intersectivity.lean:41]: Sure

File: Mathlib/Data/ENNReal/Inv.lean [hunk 3]
```diff
@@ -151,6 +151,20 @@ protected theorem div_pos (ha : a ≠ 0) (hb : b ≠ ∞) : 0 < a / b :=
   ENNReal.mul_pos ha <| ENNReal.inv_ne_zero.2 hb
 #align ennreal.div_pos ENNReal.div_pos
 
+@[simp] lemma mul_inv_le_one (a : ℝ≥0∞) : a * a⁻¹ ≤ 1 := by
```
Comment (urkud) [inline Mathlib/Data/ENNReal/Inv.lean:154]: This is the same as existing `ENNReal.div_self_le_one`.

File: Mathlib/Data/Set/Image.lean [hunk 4]
```diff
@@ -221,6 +221,9 @@ theorem _root_.Function.Injective.mem_set_image {f : α → β} (hf : Injective
   ⟨fun ⟨_, hb, Eq⟩ => hf Eq ▸ hb, mem_image_of_mem f⟩
 #align function.injective.mem_set_image Function.Injective.mem_set_image
 
+lemma preimage_subset_of_subset_image {t : Set β} (hf : Injective f) (h : t ⊆ f '' s) :
+    f ⁻¹' t ⊆ s := fun _ hx ↦ hf.mem_set_image.1 $ h hx
```
Comment (urkud) [inline Mathlib/Data/Set/Image.lean:225]: Should we use `Set.SurjOn` for the assumption?

File: Mathlib/Data/ENNReal/Inv.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/ENNReal/Inv.lean:154]: Well it's similar, but it's not *the same*?

**Review by kex-y — APPROVED** [review]
I think this PR looks good.

File: Mathlib/MeasureTheory/Integral/Average.lean [hunk 5]
```diff
@@ -29,11 +29,6 @@ The average is defined as an integral over `(μ univ)⁻¹ • μ` so that all t
 integrals work for the average without modifications. For theorems that require integrability of a
 function, we provide a convenience lemma `MeasureTheory.Integrable.to_average`.
 
-## TODO
-
-Provide the first moment method for the Lebesgue integral as well. A draft is available on branch
-`first_moment_lintegral` in mathlib3 repository.
-
```
Comment (urkud) [inline Mathlib/MeasureTheory/Integral/Average.lean:36]: Is this no longer relevant? Which theorem fixes this TODO?

File: Mathlib/MeasureTheory/Integral/Lebesgue.lean [hunk 6]
```diff
@@ -1128,7 +1128,7 @@ theorem lintegral_liminf_le {f : ℕ → α → ℝ≥0∞} (h_meas : ∀ n, Mea
   lintegral_liminf_le' fun n => (h_meas n).aemeasurable
 #align measure_theory.lintegral_liminf_le MeasureTheory.lintegral_liminf_le
 
-theorem limsup_lintegral_le {f : ℕ → α → ℝ≥0∞} {g : α → ℝ≥0∞} (hf_meas : ∀ n, Measurable (f n))
+theorem limsup_lintegral_le {f : ℕ → α → ℝ≥0∞} (g : α → ℝ≥0∞) (hf_meas : ∀ n, Measurable (f n))
```
Comment (urkud) [inline Mathlib/MeasureTheory/Integral/Lebesgue.lean:1131]: AFAIR, you've changed from explicit to implicit in some other cases. Does `(g := _)` work for you here?

File: Mathlib/MeasureTheory/Integral/Average.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/Average.lean:36]: `measure_le_setLaverage_pos` and around

File: Mathlib/MeasureTheory/Integral/Lebesgue.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/Lebesgue.lean:1131]: This is different from the other cases you are thinking about in that `g` appears neither on the LHS or RHS, so it can only be unified for if we already have proofs of `hf_meas` and `h_bound`, which is impractical.

File: Mathlib/MeasureTheory/Integral/Average.lean (hunk 5 above)
Comment (jcommelin) [reply Mathlib/MeasureTheory/Integral/Average.lean:36]: Could you please move it to an entry in the module docstring?

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by YaelDillies** [comment]
@urkud, I will merge this when I next access my computer (tonight or tomorrow) unless you object

**Comment by YaelDillies** [comment]
bors merge
